US06187802B1
A mixture of 2-bromo-2-(4-chlorophenyl)1-[1-(3,4-dichlorophenyl)cyclobutyl]ethanone (3.68 g), imidazolidine-2-thione (0.87 g), ethanol (60 ml) and acetic acid (35 ml) was heated under reflux for 18 hours then allowed to cool to ambient temperature. The solvents were removed in vacuo and the residue was triturated with ethanol (30 ml). The resulting solid was collected by filtration and crystallised from acetic acid. The resulting product was collected by filtration, washed with acetic acid (10 ml) and dried in vacuo at 100° C. to give 2-(4-chlorophenyl)-3-[1-(3,4-dichlorophenyl)cyclobutyl]-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide as a colourless solid (0.93 g), m.p. 302-304° C. (decomposes).

reactant | 2-bromo-2-(4-chlorophenyl)1-[1-(3,4-dichlorophenyl)cyclobutyl]ethanone | 3.68 g | BrC(C(=O)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C18H14BrCl3O
reactant | imidazolidine-2-thione | 0.87 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 2-(4-chlorophenyl)-3-[1-(3,4-dichlorophenyl)cyclobutyl]-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 0.93 g | Br.ClC1=CC=C(C=C1)C1=C(N2C(S1)=NCC2)C2(CCC2)C2=CC(=C(C=C2)Cl)Cl | InChI=1S/C21H17Cl3N2S.BrH/c22-15-5-2-13(3-6-15)18-19(26-11-10-25-20(26)27-18)21(8-1-9-21)14-4-7-16(23)17(24)12-14;/h2-7,12H,1,8-11H2;1H
